US09315462B2
Step 2: Synthesis of 4-(6-hydroxyquinolin-2-yl)benzohydrazide
A mixture of tert-butyl 2-(4-(6-hydroxyquinolin-2-yl)benzoyl)hydrazinecarboxylate (240 mg, 0.633 mmol) and HCl/MeOH (20 mL, 4M) was stirred at 25° C. overnight. The resulting mixture was concentrated under reduced pressure to dryness to give the product (120 mg, yield 68%).

reactant | tert-butyl 2-(4-(6-hydroxyquinolin-2-yl)benzoyl)hydrazinecarboxylate | 0.633 mmol, 240 mg | OC=1C=C2C=CC(=NC2=CC1)C1=CC=C(C(=O)NNC(=O)OC(C)(C)C)C=C1 | C21H21N3O4
solvent | HCl MeOH | 4M, 20 mL | Cl.CO
product | 4-(6-hydroxyquinolin-2-yl)benzohydrazide | 120 mg, yield 68% | OC=1C=C2C=CC(=NC2=CC1)C1=CC=C(C(=O)NN)C=C1 | C16H13N3O2
